US07645755B2
To a solution of 4-(4-{[5-chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole-3-carboxylic acid methyl ester (as prepared in the previous step, 227 mg, 0.780 mmol) in EtOH (2 mL), 2 N KOH (0.4 mL, 0.8 mmol) was added. The resulting solution was stirred at RT for 20 min and concentrated in vacuo. The residue obtained was suspended in ether (10 mL) and sonicated for 5 min. The ether was then removed and the resulting residue was dried in vacuo for 4 h to obtain 4-(4-{[5-chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole-3-carboxylic acid potassium salt (223 mg, 91%) which was directly used in the next step without any further purification.

reactant | 5-chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)Cl)COCC[Si](C)(C)C | C10H18ClN3O3Si
reactant | KOH | 0.8 mmol, 2 N, 0.4 mL | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 5-chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]triazole-3-carboxylic acid potassium salt | 223 mg, 91% | [K+].ClC1=NC(=NN1COCC[Si](C)(C)C)C(=O)[O-] | InChI=1S/C9H16ClN3O3Si.K/c1-17(2,3)5-4-16-6-13-9(10)11-7(12-13)8(14)15;/h4-6H2,1-3H3,(H,14,15);/q;+1/p-1
